Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:12]([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])[H:11],4.86252164315
[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]=[C:3]([O:4][C:5]([H:6])=[C:7][H:8])[C:10]([H:11])([H:12])[H:13].[H:9],5.11872075052
[C:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([O:11][H:12])[C:13]([H:14])([H:15])[H:16],-5.455962222
[H:1][C:2]1[O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2][O:3][C:4]([C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11])=[C:12]([H:13])[H:14],0.0987227721306999
[C:5](=[O:6])=[C:7]([H:8])[H:9].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5](=[O:6])[C:7]([H:8])[H:9],-1.92797087227
[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:9][O:10][H:11].[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[C:9][O:10][H:11],-1.60254690023
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])=[C:9][H:10].[H:8]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[C:9][H:10],-1.6659790288
[O:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4]([H:5])=[C:6]([H:7])[H:8].[O:1][O:2][C:3][C:9]([H:10])([H:11])[H:12],5.44318013542
[H:15].[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[C:16]([H:17])([H:18])[H:19]>>[H:1][C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[C:16]([H:17])([H:18])[H:19],-4.37218490495
[C:2][C:3]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:4]>>[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])=[C:8]([H:9])[H:10],-9.75527397952
[H:13].[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])=[C:10]([H:11])[H:12]>>[O:1]=[C:2]([O:3][C:4]([H:5])([H:6])[H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-2.14997679727
[H:1][C:2]#[C:3][O:8][C:6](=[C:5]=[O:4])[H:7]>>[H:1][C:2]=[C:3]1[O:4][C:5]=[C:6]([H:7])[O:8]1,2.03948158742
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16]>>[H:13].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:14]([H:15])[H:16],1.7785199190099998
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8][O:9][H:10],-4.11006149
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[H:12],4.25564750206
[H:1][C:2]([H:3])[O:4][C:5]#[C:6][O:7][C:8][H:9]>>[H:1][C:2]([H:3])[O:4][C:5]1[C:6]2[O:7][C@@:8]12[H:9],-1.38411546449
[C:3][C:4]([H:5])([H:6])[H:7].[H:1][C:2][C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-6.96191864653
[C:3]([C:4]#[C:5][C:6]([H:7])([H:8])[H:12])[C:9]([H:10])[H:11].[H:1][O:2]>>[H:1][O:2][C:3]([C:4]#[C:5][C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-5.1904444192
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][O:8][C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7].[O:8]=[C:9]([H:10])[H:11],2.01650782963
[C:3](#[C:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]=[O:2]>>[O:1][O:2][C:3](=[C:4][H:5])[C:6]([H:7])([H:8])[H:9],1.25094527408
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13].[H:14],4.61708994701
[C:1]#[C:2][C:3]([H:4])([H:5])[O:6][H:7]>>[C:1]#[C:2][C:3]([H:4])([H:5])[O:6].[H:7],5.16203137507
[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[H:1][C:2]([C:3]([H:4])=[C:5]([H:6])[H:7])=[C:8]([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:9],2.2882315874200003
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15]>>[H:13].[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[O:14][H:15],4.1100362949
[H:11].[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])[H:10]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6][O:7][C:8]([H:9])([H:10])[H:11],-4.66367705809
[H:1][C:2]#[C:3][C:8]([H:9])[C:10]([C:4]([H:5])=[C:6][H:7])([H:11])[H:12]>>[H:1][C:2]#[C:3][C@:4]1([H:5])[C:6]([H:7])=[C:8]([H:9])[C:10]1([H:11])[H:12],-2.46931153221
[O:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:3]([H:4])([H:5])[H:6].[O:1]=[C:2][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],3.77661939323
[H:1][O:2][C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1].[O:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])[H:11],2.55841970944
[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12].[H:3][C:4][H:5],8.61734956
